data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_260382_0,[C:1](/[C:3](=[C:6](\[N:5]([H:12])[H:13])[H:14])[O:7]/[C:2]([N:4]([H:9])[H:10])=[N:8]\[H:11])([H:15])([H:16])[H:17]>>[C:1]([C:3]([C:6](/[C:2]([N:4]([H:9])[H:10])=[N:8]\[H:11])([N:5]([H:12])[H:13])[H:14])=[O:7])([H:15])([H:16])[H:17],60.16470000001405
MR_12928_0,[C:1](/[C:2]([N:3]([H:6])[H:7])=[C:5](\[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:2](=[N:3]/[H:6])[C:5]([N:4]([H:8])[H:9])([H:7])[H:10])([H:11])([H:12])[H:13],61.58535999999416
MR_596288_1,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])(/[N:6]=[N:5]/[O:4][H:8])([H:9])[H:10]>>[C:1](=[N:6][N:5]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])[O:4][H:8])([H:9])[H:10],58.36628499998895
MR_369034_2,[C:1]([N:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]\[H:11])[N:5]([H:9])[H:10])([C:6](=[O:8])[H:14])([H:12])[H:13]>>[C:1](/[N:3]=[N:5]/[H:9])([C:6](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]\[H:11])([O:8][H:10])[H:14])([H:12])[H:13],60.23686250001021
MR_550432_1,[C:1](/[N:7]=[C:6](/[N:3]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:8])[N:5]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:7]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:8])/[C:6](=[N:3]/[N:5]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],43.755574999995446
MR_208908_2,[C:1](=[C:6]([C:5]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:11])=[O:9])[C:4]([O:8][H:12])=[O:10])[H:15])([H:13])[H:14]>>[C:1]([C:4]([O:8][H:12])=[O:10])(/[C:6](=[C:5](\[C:2]([H:16])([H:17])[H:18])[C:3]([O:7][H:11])=[O:9])[H:15])([H:13])[H:14],66.14665749999915
MR_15923_0,[C:1]([N:3](/[C:4]([O:5][H:7])=[N:6]/[C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[C:4](\[O:5][H:7])[N:6]([C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11],44.06869749998961
MR_515404_0,[C:1]([C:2]1([O:9]/[C:5](=[N:8]\[H:10])[H:12])[C:3](=[C:7]([H:17])[H:18])[C:4]([H:11])=[C:6]1[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C:3](/[C:4](=[C:6]([C:5](=[N:8]/[H:10])\[H:12])/[H:13])[H:11])=[C:7]([H:17])[H:18])=[O:9])([H:14])([H:15])[H:16],70.50840999997291
MR_438107_0,[C:1]([C:3]([N:2]([O:4][H:8])[N:5]=[O:6])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3]([O:6]/[N:5]=[N:2]/[O:4][H:8])=[O:7])([H:9])([H:10])[H:11],27.395394999995943
MR_545449_0,[C:1]([O:4]/[C:2]([N:3]([H:8])[H:9])=[N:6]/[H:10])([N:5]=[O:7])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:2]([N:3]([H:8])[H:9])([N:6]([N:5]=[O:7])[H:10])[O:4]1,62.97025249999322
MR_35228_0,[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])=[O:5])([O:4][H:7])=[O:6]>>[C:1]([C:2](=[C:3]([H:9])[H:10])[O:5][H:8])([O:4][H:7])=[O:6],70.57618000001582
MR_222142_1,[N:1]([C:2]([O:7][H:9])=[O:8])(/[C:3]([N:4]([H:11])[H:12])=[C:6](/[N:5]([H:13])[H:14])[H:15])[H:10]>>[N:1](=[C:3](/[N:4]([H:11])[H:12])[C:6]([C:2]([O:7][H:9])=[O:8])([N:5]([H:13])[H:14])[H:15])\[H:10],47.56449999997386
